US07601728B2
tert-Butyl {(3R)-1-[5-(2-chlorobenzyl)-7-cyano-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate
Potassium carbonate (700 mg) and methyl iodide (0.34 ml) were added to a solution of tert-butyl {(3R)-1-[5-(2-chlorobenzyl)-7-cyano-2-hydroxy-3-methyl-4-oxo-4,5-dihydro-3H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate (1.3 g) in N,N-dimethylformamide, and the resulting mixture was stirred at 25° C. for 4 hours. After the reaction, water was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed with water and a saturated aqueous sodium chloride solution, dried over sodium sulfate and then filtered and the filtrate was concentrated under reduced pressure. The resulting residue was purified by a silica gel column chromatography (hexane/ethyl acetate=1/1) to obtain the title compound (1.1 g) as a white solid.

reactant | Potassium carbonate | 700 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.34 ml | CI | CH3I
reactant | tert-butyl {(3R)-1-[5-(2-chlorobenzyl)-7-cyano-2-hydroxy-3-methyl-4-oxo-4,5-dihydro-3H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate | 1.3 g | ClC1=C(CN2C(=C(C=3N=C(N(C(C32)=O)C)O)C#N)N3C[C@@H](CCC3)NC(OC(C)(C)C)=O)C=CC=C1 | C25H29ClN6O4
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | tert-Butyl {(3R)-1-[5-(2-chlorobenzyl)-7-cyano-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate | 1.1 g | ClC1=C(CN2C(=C(C=3N(C(N(C(C32)=O)C)=O)C)C#N)N3C[C@@H](CCC3)NC(OC(C)(C)C)=O)C=CC=C1 | C26H31ClN6O4
